US04672068
3.51 g (10 mM) of 2-(3-nitrobenzylidene)acetoacetic acid cinnamyl ester was mixed with 1.38 g (12 mM) of 3-aminocrotonic acid methyl ester, and heated at 120° for 3 hours. The reaction mixture was separated by silica gel column chromatography, and 3.00 g of cinnamyl methyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate (trans) was obtained (yield 67%). This derivative was recrystallized once with methanol.

reactant | 2-(3-nitrobenzylidene)acetoacetic acid cinnamyl ester | 10 mM, 3.51 g | C(C=CC1=CC=CC=C1)OC(C(C(=O)C)=CC1=CC(=CC=C1)[N+](=O)[O-])=O | C20H17NO5
reactant | 3-aminocrotonic acid methyl ester | 12 mM, 1.38 g | COC(\C=C(\C)/N)=O | C5H9NO2
product | cinnamyl methyl 4-(3-nitrophenyl)-2,6-dimethyl-1,4-dihydropyridine-3,5-dicarboxylate | 3.00 g, yield 67% | [N+](=O)([O-])C=1C=C(C=CC1)C1C(=C(NC(=C1C(=O)OC)C)C)C(=O)OCC=CC1=CC=CC=C1 | C25H24N2O6
